US05369159
A mixture of 103.2 g (0.50 mol) of 2,4-di-tert-butylphenol and 102.4 g (0.55 mol) of 4-hydroxymandelic acid monohydrate in 100 ml of acetic acid is refluxed for 24 hours under a nitrogen atmosphere. The reaction mixture is then diluted with 140 ml of 50% aqueous acetic acid, cooled, and the precipitate formed is filtered off. The residue is washed with another 200 ml of 50% aqueous acetic acid and then dried, giving 95.9 g (57%) of 5,7-di-tert-butyl-3-(4-hydroxyphenyl)benzofuran-2-one, melting point 187°-190° C. (compound (101), Table 1).

reactant | 2,4-di-tert-butylphenol | 0.50 mol, 103.2 g | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)O | C14H22O
reactant | 4-hydroxymandelic acid monohydrate | 0.55 mol, 102.4 g | O.OC1=CC=C(C(C(=O)O)O)C=C1
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 140 ml | C(C)(=O)O | C2H4O2
product | 5,7-di-tert-butyl-3-(4-hydroxyphenyl)benzofuran-2-one | 95.9 g, 57% | C(C)(C)(C)C=1C=C(C2=C(C(C(O2)=O)C2=CC=C(C=C2)O)C1)C(C)(C)C | C22H26O3
